US07868030B2
i) diphenyl (5-bromo-1,3-thiazol-2-yl)imidodicarbonate
Phenyl chloroformate (1.4 ml, 11.0 mmol) was slowly added to a suspension of 5-bromo-thiazol-2-ylamine hydrobromide (1.3 g, 5.0 mmol) in 20 ml pyridine under an argon atmosphere. The reaction mixture was stirred for 3 h at room temperature and then concentrated under reduced pressure. The residue was suspended in water and acidified using conc. HCl to yield light brown crystals (2.3 g, 93%), m/e 419.2 (MH+).

reactant | Phenyl chloroformate | 11.0 mmol, 1.4 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 5-bromo-thiazol-2-ylamine hydrobromide | 5.0 mmol, 1.3 g | Br.BrC1=CN=C(S1)N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | diphenyl (5-bromo-1,3-thiazol-2-yl)imidodicarbonate | 2.3 g, 93% | BrC1=CN=C(S1)N(C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C17H11BrN2O4S
